US04596816
5-Methyl-2-pentyl-4-phenyloxazole (4.25 g) was brominated with N-bromosuccinimide (3.4 g) in carbon tetrachloride in the presence of azobisisobutyronitrile (0.2 g). The procedure gave an oil of 5-bromomethyl-2-pentyl-4-phenyloxazole, yield 5.70 g (99.7%).

reactant | 5-Methyl-2-pentyl-4-phenyloxazole | 4.25 g | CC1=C(N=C(O1)CCCCC)C1=CC=CC=C1 | C15H19NO
reactant | N-bromosuccinimide | 3.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2-pentyl-4-phenyloxazole | BrCC1=C(N=C(O1)CCCCC)C1=CC=CC=C1 | C15H18BrNO
